US04840949
35.0 g (0.25 mole) of 3-methyl-xanthine (Chem. Ber. 83, 209 1950) are dissolved in 81.4 ml (0.25 mole) of a 10% sodium hydroxide solution under shaking; crystallization takes place within some minutes. Water is distilled off in vacuo and the traces of water are removed by azeotropic distillation with toluene. The residue is suspended in 35 ml of dimethyl formamide, whereupon a solution of 18.9 g (0.25 mole) of chloroacetonitrile in 80 ml of dimethyl formamide is added dropwise at 100° C. within 30 minutes. The reaction mixture is stirred at 100° C. for a further hour, filtered until hot, the precipitate (sodium chloride) is washed with hot dimethyl formamide and the united solutions are evaporated to dryness under reduced pressure. The residue is treated with 100 ml of acetone, the crystals are filtered by suction and throughly washed with acetone. The 7-cyanomethyl-3-methyl-xanthine (m.p.: 285°-287° C.) thus obtained can be used in further reactions.

reactant | 3-methyl-xanthine | 0.25 mole, 35.0 g | CN1C(NC(C=2NC=NC12)=O)=O | C6H6N4O2
reactant | chloroacetonitrile | 0.25 mole, 18.9 g | ClCC#N | C2H2ClN
solvent | sodium hydroxide | [OH-].[Na+]
solvent | dimethyl formamide | 35 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 80 ml | CN(C=O)C | C3H7NO
product | 7-cyanomethyl-3-methyl-xanthine | C(#N)CN1C=NC=2N(C(NC(C12)=O)=O)C | C8H7N5O2
